US08859768B2
To a solution of 5-[2-(acetylamino)pyridin-4-yl]-2-(2-chlorophenyl)-3-furoic acid (0.10 g, 0.28 mmol) in DCM (15 mL) was added ammonia (0.5 M in 1,4-dioxane, 4.5 mL), TBTU (0.18 g, 0.56 mmol) and DMA (0.49 mL, 2.8 mmol). The mixture was allowed to stir at rt overnight. The reaction mixture was diluted with water and extracted with DCM. The organic solutions were combined, washed with brine, dried over Na2SO4, filtered and concentrated. The residue was purified by column chromatography to give 5-[2-(acetylamino)pyridin-4-yl]-2-(2-chlorophenyl)-3-furamide (0.062 g, 62%) as a white solid. LCMS (FA): m/z=356.5 (M+H).

reactant | 5-[2-(acetylamino)pyridin-4-yl]-2-(2-chlorophenyl)-3-furoic acid | 0.28 mmol, 0.10 g | C(C)(=O)NC1=NC=CC(=C1)C1=CC(=C(O1)C1=C(C=CC=C1)Cl)C(=O)O | C18H13ClN2O4
reactant | ammonia | 0.5 M, 4.5 mL | N | H3N
reactant | TBTU | 0.56 mmol, 0.18 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | DMA | 2.8 mmol, 0.49 mL | CC(=O)N(C)C | C4H9NO
solvent | DCM | 15 mL | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | 5-[2-(acetylamino)pyridin-4-yl]-2-(2-chlorophenyl)-3-furamide | 0.062 g, 62% | C(C)(=O)NC1=NC=CC(=C1)C1=CC(=C(O1)C1=C(C=CC=C1)Cl)C(=O)N | C18H14ClN3O3
